US04997836
A solution of 4-methoxy cinnamoyl chloride (0.3 g) in dichloromethane (4 ml) is added dropwise, taking 3 minutes at 0 ° C while stirring, to a mixture of methyl 1-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate (0.57 g), triethylamine (0.4 g) and dichloromethane (12 ml). The reaction mixture is stirred for 30 minutes at room temperature, and then poured into water, followed by extraction with dichloromethane. The organic layer is washed with dilute hydrochloric acid, an aqueous solution of sodium hydrogencarbonate and water, successively, then the solvent is distilled off. The residue is purified by means of a silica gel column chromatography to give methyl 4-(4-methoxycinnamoyl)-1(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate (0.6 g) as a colorless oily product. This product is processed with ethyl ether to give colorless powder

reactant | 4-methoxy cinnamoyl chloride | 0.3 g | COC1=CC=C(C=CC(=O)Cl)C=C1 | C10H9ClO2
reactant | methyl 1-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate | 0.57 g | COC=1C=C(C(=O)N2C(CNCC2)C(=O)OC)C=C(C1OC)OC | C16H22N2O6
reactant | triethylamine | 0.4 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | methyl 4-(4-methoxycinnamoyl)-1(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylate | 0.6 g | COC1=CC=C(C=CC(=O)N2CC(N(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C(=O)OC)C=C1 | C26H30N2O8
